US03987113
Furthermore, there is disclosed in Journal of Chemical Society, 1277 (1923) that m-cresol is sulfonated with a fuming sulfuric acid and then the resulting sulfonated m-cresol is nitrated with a mixed acid (nitric acid plus sulfuric acid), but by this method 3-methyl-2-nitrophenol is obtained as a main product and only a small amount of 5-methyl-2-nitrophenol is obtained as a by-product, the total yield being very poor for the reason as mentioned above.

reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 3-methyl-2-nitrophenol | CC=1C(=C(C=CC1)O)[N+](=O)[O-] | C7H7NO3
